US08030487B2
Synthesis of Methyl 2-{[3-(2-pyrrolidin-1-ylethoxy)phenyl]amino}pyrimidine-5-carboxylate (Intermediate 63)
Two 20 mL microwave vials were each charged with methyl 2-aminopyrimidine-5-carboxylate (460.0 mg, 3.0 mmol), 1-[2-(3-bromo-phenoxy)-ethyl]-pyrrolidine (811.0 mg, 3.0 mmol), Pd2(dba)3 (110.0 mg, 0.12 mmol), XantPhos (208.3 mg, 0.36 mmol), Cs2CO3 (1.95 g, 6.0 mmol) and anhydrous dioxane (20 mL). The mixture was purged with argon gas for 15 min, then sealed and irradiated in a microwave (Initiator, Biotage) at 180° C. for 60 min. After cooling to room temperature, the cap was removed and the reaction mixtures were combined and partitioned between EtOAc and H2O. The aqueous layer was extracted with EtOAc (3×100 mL). Combined EtOAc solutions were washed with H2O (2×100 mL), brine (2×100 mL) and dried over anhydrous Na2SO4. The resulting solution was concentrated in vacuo with ca. 15 g of silica gel. The loaded silica gel was taken to the ISCO system for further purification (80 g column, solid method, 0% to 20% MeOH gradient in DCM, 40 min method). Fractions, containing the product, were combined and concentrated in vacuo to give reddish oil. The oil was re-crystallized from 10 mL of CH3CN to give the title compound as a light-yellow solid (1.07 g, 35% yield).

reactant | methyl 2-aminopyrimidine-5-carboxylate | 3.0 mmol, 460.0 mg | NC1=NC=C(C=N1)C(=O)OC | C6H7N3O2
reactant | 1-[2-(3-bromo-phenoxy)-ethyl]-pyrrolidine | 3.0 mmol, 811.0 mg | BrC=1C=C(OCCN2CCCC2)C=CC1 | C12H16BrNO
reactant | XantPhos | 0.36 mmol, 208.3 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 6.0 mmol, 1.95 g | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.12 mmol, 110.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | Methyl 2-{[3-(2-pyrrolidin-1-ylethoxy)phenyl]amino}pyrimidine-5-carboxylate | 1.07 g, 35% yield | N1(CCCC1)CCOC=1C=C(C=CC1)NC1=NC=C(C=N1)C(=O)OC | C18H22N4O3
